US05444072
A mixture of (S)-2-(4-t-butyldimethylsilyloxy-1,3-dihydro-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl)-1-cyclopentenyl-1-hydroxyethane (2.8 g), pivalic acid (0.1 g) and triethyl orthoacetate (125 ml) was heated to 138° C. After 2.5 hours, more pivalic acid (65 mg) was added and the reaction was continued 1 hour more. The reaction mixture was cooled, the excess triethyl orthoacetate removed in vacuo, and the residue chromatographed on silica gel (20% ethyl acetate/hexane) to give ethyl (S)(E)-2-{2-[2-(4-t-butyldimethylsilyloxy-1,3-dihydro-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl)ethylidene]cyclopent-1-yl}acetate.

reactant | (S)-2-(4-t-butyldimethylsilyloxy-1,3-dihydro-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl)-1-cyclopentenyl-1-hydroxyethane | 2.8 g | [Si](C)(C)(C(C)(C)C)OC1=C2C(OCC2=C(C(=C1C[C@H](O)C1=CCCC1)CC)C)=O | C24H36O4Si
reactant | pivalic acid | 0.1 g | C(C(C)(C)C)(=O)O | C5H10O2
reactant | triethyl orthoacetate | 125 ml | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | pivalic acid | 65 mg | C(C(C)(C)C)(=O)O | C5H10O2
product | ethyl (S)(E)-2-{2-[2-(4-t-butyldimethylsilyloxy-1,3-dihydro-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl)ethylidene]cyclopent-1-yl}acetate | [Si](C)(C)(C(C)(C)C)OC1=C2C(OCC2=C(C(=C1C\C=C/1\[C@@H](CCC1)CC(=O)OCC)CC)C)=O | C28H42O5Si
